US07470680B2
5-methoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid.
To a white suspension of 5-methoxy-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid (500 mg, 2.60 mmol) in tetrahydrofuran (25 mL) was added sodium hydride (281 mg, 11.72 mmol) in several portions at 0° C., the resulting light grey suspension was stirred for 30 min, followed by dropwise addition of iodomethane (1664 mg, 11.72 mmol) in syringe. The mixture was continued stirring at 0° C. for 2 hr and the reaction was quenched with conc. HCl at 0° C. to ˜pH 6, MeOH (20 mL) was added, stirred for 2 min, the resulting suspension was passed through a thin layer silica gel with 10 mL MeOH. The collected solution was concentrated on rotary vacuo, and purified on PrepHPLC to afford the expected product, 5-methoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid (398 mg, 74%) as a grey gum. 1H-NMR (500 MHz, MeOD) δ ppm 3.33 (ddd, J=3.20, 1.83, 1.68 Hz, 3 H) 4.24 (s, 3 H) 6.62 (d, J=2.44 Hz, 1 H) 7.71 (d, J=3.36 Hz, 1 H) 8.39 (s, 1 H); Mass spec 207.16 (MH+) Calc for C9H11BN2O3 206.09.

reactant | 5-methoxy-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid | 2.60 mmol, 500 mg | COC1=C(C=C2C(=N1)C=CN2)B(O)O | C8H9BN2O3
reactant | sodium hydride | 11.72 mmol, 281 mg | [H-].[Na+]
reactant | iodomethane | 11.72 mmol, 1664 mg | IC | CH3I
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 5-methoxy-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-ylboronic acid | 398 mg, 74% | COC1=C(C=C2C(=N1)C=CN2C)B(O)O | C9H11BN2O3
